2106-05-14 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2106-5-13**] 06:46 PM
 PRESEP CATHETER - START [**2106-5-13**] 06:48 PM
 URINE CULTURE - At [**2106-5-13**] 08:22 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2106-5-14**] 02:05 AM
   Meropenem - [**2106-5-14**] 06:00 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-14**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.6
   HR: 90 (86 - 125) bpm
   BP: 97/74(78) {74/11(35) - 136/87(99)} mmHg
   RR: 19 (9 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 5 (0 - 11)mmHg
   Total In:
                                                                  4,373 mL
                                                                  1,602 mL
   PO:
                                                                    360 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  2,413 mL
                                                                  1,242 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                  1,330 mL
   Urine:
                                                                  1,350 mL
                                                                  1,330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,023 mL
                                                                    272 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   389 K/uL
   8.2 g/dL
   113 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.6 mEq/L
   8 mg/dL
   110 mEq/L
   142 mEq/L
   25.4 %
   10.2 K/uL
        [image002.jpg]
                             [**2106-5-13**]  07:47 PM
                             [**2106-5-14**]  04:00 AM
   WBC
   10.9
   10.2
   Hct
   27.3
   25.4
   Plt
   185
   389
   Cr
   0.7
   Glucose
   113
   Other labs: Ca++:7.9 mg/dL, Mg++:1.5 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   68M t4 level paraplejia, CAD, CHF EF 25-30% , severe sacral decubit
   ulcers,, multiple UTIs, PE with IVC filter on anticouagulation who
   presents with hypotention.
   # Sepsis: goal CVP 10-12. Gently hydradion given low EF. Patient denied
   any diarrhea, cough, fevers or chills. He has multiple sources for
   infection including multiple decubit ulcers, indwelling catheter, PICC
   line catheter. He is a resident from nursing home. Chest x ray clear.
   U/A with leukocytes, neg nitrates, mod leukocytes.
   - follow up urine output
   - cover broadly Antibiotics - vanc for MRSA, Meropenem given that he
   had been on Zozyn recently, and will add cipro for gram negative double
   coverage. He is definitely at risk of VRE but his cultures have not
   shown VRE so far. Will add Flagyl.
   - f/u blood cultures
   - get blood cultures from picc line
   - send sputum culture
   - send urine cx
   - wound cx
   - less likely flu, but he had some mucus and cough on arrival.
   will send r/o flu
   .
   # Decubit ulcer:
   - plastic consult in the am
   - swab from wound
   - wound care per wound cousult team recs in OMR>
   .
   # PE s/p IVC filter: contineu anticoagulation. therapeutic INR
   - will continue
   .
   #
   CV: continue aspirin, will hold BP meds for now.
   .
   Pump: currently seems dry. will bolus him PRN. no evidence of volume
   overload at this time.
   .
   #Depression:  will continue citalopram
   .
   # h/o seizures: continue keppra
   .
   # h/o cholelitiasis: continue ursodiol
   .
   # Anorexia: continue megace
   .
   # Prophylaxis: PPI, bowel regimen
   .
   # FEN: clear
   .
   #Access: PIVs  , R IJ, left picc line
   .
   # Code: DNI/ ok CPR
   .
   # Dispo: pending further work-up and treatment
   .
   # Communication: [**Telephone/Fax (1) 1959**] [**Hospital 12**] Rehab acute care
   ICU Care
   Nutrition:
   Glycemic Control:  ssi
   Lines:
   PICC Line - [**2106-5-13**] 06:46 PM
   Presep Catheter - [**2106-5-13**] 06:48 PM
   18 Gauge - [**2106-5-13**] 06:49 PM
   Prophylaxis:
   DVT: ivc filter, coumadin
   Stress ulcer: h2 blocker
   VAP:  na
   Comments:
   Communication:  Comments:
   Code status: dni
   Disposition:

2106-05-15 06:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - STOP [**2106-5-14**] 11:00 AM
   - What we thought was PICC was actually midline, so when it was
   removed, the tip hit the bed.. still sent it to culture, keep this in
   mind when results come back
   - foley changed
   - [**Last Name (un) 45**] stim: 7.8 --> 22.2, appropriate
   - Flu negative
   - Code status: patient is full code
   - plastics: reccs in chart. not staffed
   - Wound care: pending
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2106-5-14**] 08:11 PM
   Ciprofloxacin - [**2106-5-15**] 12:00 AM
   Metronidazole - [**2106-5-15**] 04:00 AM
   Meropenem - [**2106-5-15**] 05:54 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2106-5-15**] 05:57 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-15**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.8
C (98.2
   HR: 78 (69 - 93) bpm
   BP: 88/57(64) {83/44(54) - 118/80(88)} mmHg
   RR: 13 (9 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 5 (-1 - 9)mmHg
   Total In:
                                                                  3,443 mL
                                                                    552 mL
   PO:
                                                                  1,060 mL
                                                                    220 mL
   TF:
   IVF:
                                                                  2,383 mL
                                                                    332 mL
   Blood products:
   Total out:
                                                                  3,495 mL
                                                                    875 mL
   Urine:
                                                                  3,495 mL
                                                                    875 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -52 mL
                                                                   -323 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ////
   Physical Examination
   Gen: nad, friendly, speaking in full sentences
   [**Name (NI) 1969**]: mm dry.  Eomi.  No jvd
   Pul: crackles bases bilaterally
   Cor: nl s1s2 no mrg
   Abd: soft, nt, nd
   Genital: foley [**Last Name (un) **] in place, ulcerations at meatus
   Extrem: no peripheral edema.  Sacral decubitus ulcers, 4 total.  Packed
   w/ dressing.  Bases clean, beefy red.  Prob to bone in central stage IV
   sacral decub..  Mild yellow drainage.
   Neuro: alert / oriented x 3.  upper extremeties 4+ / 5 strength.  0/5
   strength and sensation LEs.
   Labs / Radiology
   389 K/uL
   8.2 g/dL
   113 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.6 mEq/L
   8 mg/dL
   110 mEq/L
   142 mEq/L
   25.4 %
   10.2 K/uL
        [image002.jpg]
                             [**2106-5-13**]  07:47 PM
                             [**2106-5-14**]  04:00 AM
   WBC
   10.9
   10.2
   Hct
   27.3
   25.4
   Plt
   185
   389
   Cr
   0.7
   Glucose
   113
   Other labs: PT / PTT / INR:32.9/39.7/3.4, Ca++:7.9 mg/dL, Mg++:1.5
   mg/dL, PO4:2.4 mg/dL
   Microbiology: [**5-14**] blood cultures pending
   [**5-14**] sputum cultures negative
   [**5-14**] urine culturse pending
   [**5-14**] midline tip culture pending
   Assessment and Plan
   68M t4 level paraplejia, CAD, CHF EF 25-30% , severe sacral decubit
   ulcers,, multiple UTIs, PE with IVC filter on anticouagulation who
   presents with hypotention.
   # Sepsis: Most likely etiologies: urosepsis, decubitus ulcers,
   midline.  Patient was weaned off levophed at 10pm last night, but has
   been persistently hypotensive this AM with MAPs about  59-60.
    DFA negative.
   patient [**Last Name (un) 45**] stimulated appropriately, no adrenal insufficency
   - currently treat hypotension with LR boluses, for a max of about 1
   liter today, considring CHF. Beyond that, consider restarting pressor
   - f/u midline cultures, although tip may have been contaminated.
   - Urosepsis: continue treating broadly w/ vanco (mrsa), meropenem +
   cipro (GNRs) pending cultures
   - Ulcers, treating w/ above and flagyl.
   - goal urine output >30cc/hour
   - W/ CHF and CAD, will monitor maps > 60, urine ouput.
   - consider [**Last Name (LF) 1981**], [**First Name3 (LF) 178**] discuss with plastics.
   - Follow cultures, wean antibiotics w/ culture data.
   Decubit ulcer: Long standing. Recent debreidement.
   - cont flagyl.
   - will f/u wound consult, may have to call back since plastics note
   says to defer to wound care plan.
   - f/u plastics consult regarding imaging for osteo, patient does have
   hx of sarcal osteo
   - Possible osteo w/ exposed sacrum.
   - Dressing changes [**Hospital1 **]
   PE s/p IVC filter: continue anticoagulation.  Was therapeutic on INR.
   - coumadin inr [**3-14**], high today, will hold tonights dose
   CV: continue aspirin.
   Cont hold BP meds while hypotensive.
   Depression:  will continue citalopram
   h/o seizures: continue keppra
   h/o cholelitiasis: continue ursodiol
   Anorexia: hold  megace
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2106-5-13**] 06:48 PM
   18 Gauge - [**2106-5-13**] 06:49 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2106-05-15 10:56:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE-  pulled and cultured (but the tip hit the bed), so not
   sterile.
   Wound care eval
   Awaiting plastics input
   Remains intermittently hypotensive (seems to respond to fluid bolus)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2106-5-15**] 12:00 AM
   Metronidazole - [**2106-5-15**] 04:00 AM
   Meropenem - [**2106-5-15**] 05:54 AM
   Vancomycin - [**2106-5-15**] 08:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2106-5-15**] 05:57 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-15**] 10:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.8
   HR: 78 (69 - 93) bpm
   BP: 88/57(64) {83/44(54) - 118/80(88)} mmHg
   RR: 15 (9 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 6 (-1 - 9)mmHg
   Total In:
                                                                  3,443 mL
                                                                  1,663 mL
   PO:
                                                                  1,060 mL
                                                                    700 mL
   TF:
   IVF:
                                                                  2,383 mL
                                                                    963 mL
   Blood products:
   Total out:
                                                                  3,495 mL
                                                                  1,295 mL
   Urine:
                                                                  3,495 mL
                                                                  1,295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -52 mL
                                                                    368 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///22/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.1 g/dL
   134 K/uL
   76 mg/dL
   0.5 mg/dL
   22 mEq/L
   3.4 mEq/L
   6 mg/dL
   111 mEq/L
   141 mEq/L
   23.1 %
   7.1 K/uL
        [image002.jpg]
                             [**2106-5-13**]  07:47 PM
                             [**2106-5-14**]  04:00 AM
                             [**2106-5-15**]  05:36 AM
   WBC
   10.9
   10.2
   7.1
   Hct
   27.3
   25.4
   23.1
   Plt
   185
   389
   134
   Cr
   0.7
   0.5
   Glucose
   113
   76
   Other labs: PT / PTT / INR:33.5/41.9/3.5, Ca++:7.5 mg/dL, Mg++:1.2
   mg/dL, PO4:2.1 mg/dL
   ECG: ECG: sinus nml axis. no evidence of ischemia
   Assessment and Plan
   Assessment/Plan:
   64-year-old man with septic shock (source most likely decub, but UTI
   and PICC line also in DDx) on a background history of T4 paraplegia
   (?myelitis) complicated by decubiti, neurogenic bladder, PEs and UTIs.
   Septic Shock
   Source control
 pulled PICC line. Awaiting plastics input for decub.
   Flu and blood neg. Still hypotensive with appropriate adrenal reserve
   (still working on figuring out source).
   ABX
 vanco (MRSA), meropenem (GNR), cipro (GNR), flagyl (C diff, addl
   anaerobes)  Follow cx.
   Hemodynamics
 manage using EGDT algorithm.  Good UOP. Goal MAP 60.
   Will fluid bolus (LR), try to figure out his real out pt BP. If he
   needs pressors again will place art line.
   Steroids
 assessed for adrenal insufficiency since on Megace.
   Appropriate stim.
   Etiol: urosepsis, decubitus ulcers, picc line.
   Decubitus ulcers vs osteo
   Quite long-standing, with recent debridement
   Wound care and plastics consult.  [**Month (only) 60**] need additional imaging for
   osteo. (awaiting plastics input for type of imaging).
   PE s/p IVC filter:
   Continue warfarin for now, with goal INR 2
 3.  Monitor closely, since
   may trend up with quinolone.  Now back on coumadin (holding dose)
   (elevated presently)
   Renal function:
   Ok for now. Fluids with LR to avoid hyperchloremic acidosis.
   CAD/CHF
   No evidence of volume overload (but will need to be cautious with
   IVF).  Hold antihypertensive; continue aspirin.  [**Month (only) 60**] be able to retart
   in next couple of days.
   Seizure disorder. T4 plegia (very unclear etiology)
   Continue keppra
   Code status
   FULL Code.
   Other issues as per ICU team note.
   ICU Care
   Nutrition:
   Comments: on PO diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2106-5-13**] 06:48 PM
   18 Gauge - [**2106-5-13**] 06:49 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: on diet
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2106-05-16 06:36:00 Physician Resident Progress Note
Chief Complaint: 68M T4 paraplegia, CAD, systolic CHF, sacral decubitus
   ulcers, multiple UTIs, PE with IVC filter on anticoagulation admitted
   with hypotension.
   24 Hour Events:
   - Plastics: Signed off.  (No tissue or imaging requested)
   - SW following
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2106-5-15**] 11:20 AM
   Vancomycin - [**2106-5-15**] 08:11 PM
   Ciprofloxacin - [**2106-5-16**] 12:00 AM
   Meropenem - [**2106-5-16**] 06:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2106-5-16**] 06:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-16**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.5
   HR: 74 (72 - 92) bpm
   BP: 101/64(73) {81/51(58) - 104/78(81)} mmHg
   RR: 14 (11 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 10 (2 - 11)mmHg
   Total In:
                                                                  3,660 mL
                                                                    525 mL
   PO:
                                                                  1,260 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  2,400 mL
                                                                    325 mL
   Blood products:
   Total out:
                                                                  3,390 mL
                                                                    900 mL
   Urine:
                                                                  3,390 mL
                                                                    850 mL
   NG:
   Stool:
                                                                     50 mL
   Drains:
   Balance:
                                                                    270 mL
                                                                   -375 mL
   Respiratory support
   O2 Delivery Device: Room air
   SpO2: 100%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed, Stage III-IV sacral decubitus ulcer
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   217 K/uL
   7.5 g/dL
   76 mg/dL
   0.5 mg/dL
   22 mEq/L
   3.4 mEq/L
   6 mg/dL
   111 mEq/L
   141 mEq/L
   23.3 %
   6.2 K/uL
        [image002.jpg]
                             [**2106-5-13**]  07:47 PM
                             [**2106-5-14**]  04:00 AM
                             [**2106-5-15**]  05:36 AM
                             [**2106-5-16**]  04:57 AM
   WBC
   10.9
   10.2
   7.1
   6.2
   Hct
   27.3
   25.4
   23.1
   23.3
   Plt
   185
   389
   134
   217
   Cr
   0.7
   0.5
   Glucose
   113
   76
   Other labs: PT / PTT / INR:33.2/46.3/3.5, Ca++:7.5 mg/dL, Mg++:1.2
   mg/dL, PO4:2.1 mg/dL
   Imaging:
   [**5-16**] CXR pending
   Microbiology:
   [**5-13**] Midline tip cx pending
   [**5-13**] Blood cx pending
   [**5-13**] Urine cx pending
   [**5-13**] Sputum cx pending; gram stain OP contamination
   Assessment and Plan
   68M T4 paraplegia, CAD, systolic CHF, sacral decubitus ulcers, multiple
   UTIs, PE with IVC filter on anticoagulation admitted with hypotension.
   # Sepsis: Infectious source likely urosepsis, decubitus ulcers, midline
   (removed).  (DFA negative.)  Off pressors since early in admission.
   - Abx: Current regimen vancomycin (h/o MRSA), metronidazole, meropenem,
   ciprofloxacin.  Discontinue metronidazole and ciprofloxacin.
   - Midline: F/u tip culture, although tip may have been contaminated.
   - Urosepsis: [**5-13**] urine cx pending (note urine cx obtained after first
   dose of abx).
   - Decubitus ulcers: Continue vancomycin/meropenem.
   # Decubitus ulcer: s/p recent debridement.  Wound care following.
   # PE s/p IVC filter: Continue anticoagulation, dose warfarin per INR.
   # CV:
   -- Ischemia: Continue aspirin
   -- Pump Continue holding BP meds while hypotensive.
   # Depression:  Continue citalopram
   # h/o seizures: Continue keppra
   # h/o cholelitiasis: Continue ursodiol
   # Anorexia: Continue Megace
   ICU Care
   Nutrition:
   Comments: PO intake
   Glycemic Control:  D/c regular insulin sliding scale
 FSBS well
   controlled
   Lines:
   Presep Catheter - [**2106-5-13**] 06:48 PM
   18 Gauge - [**2106-5-13**] 06:49 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Warfarin)
   Stress ulcer: Discontinue famotidine (not indicated; pt taking PO)
   VAP:
   Comments: Not intubated
   Communication:  Comments: Social work following
   Code status: Full code
   Disposition:

2106-05-16 10:13:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   No events overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2106-5-16**] 12:00 AM
   Metronidazole - [**2106-5-16**] 04:00 AM
   Meropenem - [**2106-5-16**] 06:00 AM
   Vancomycin - [**2106-5-16**] 08:30 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2106-5-16**] 06:12 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-16**] 10:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.8
C (98.3
   HR: 80 (70 - 92) bpm
   BP: 109/69(79) {81/51(58) - 109/70(79)} mmHg
   RR: 20 (11 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 10 (2 - 11)mmHg
   Total In:
                                                                  3,660 mL
                                                                  1,120 mL
   PO:
                                                                  1,260 mL
                                                                    540 mL
   TF:
   IVF:
                                                                  2,400 mL
                                                                    580 mL
   Blood products:
   Total out:
                                                                  3,390 mL
                                                                  1,430 mL
   Urine:
                                                                  3,390 mL
                                                                  1,380 mL
   NG:
   Stool:
                                                                     50 mL
   Drains:
   Balance:
                                                                    270 mL
                                                                   -310 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Signif, decub Stage IV ulcer
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Oriented (to): x3, Movement:
   Purposeful, lower ext paralysis, Tone: Not assessed
   Labs / Radiology
   7.5 g/dL
   217 K/uL
   81 mg/dL
   0.6 mg/dL
   21 mEq/L
   3.5 mEq/L
   4 mg/dL
   113 mEq/L
   143 mEq/L
   23.3 %
   6.2 K/uL
        [image002.jpg]
                             [**2106-5-13**]  07:47 PM
                             [**2106-5-14**]  04:00 AM
                             [**2106-5-15**]  05:36 AM
                             [**2106-5-16**]  04:57 AM
   WBC
   10.9
   10.2
   7.1
   6.2
   Hct
   27.3
   25.4
   23.1
   23.3
   Plt
   185
   389
   134
   217
   Cr
   0.7
   0.5
   0.6
   Glucose
   113
   76
   81
   Other labs: PT / PTT / INR:33.2/46.3/3.5, Ca++:7.6 mg/dL, Mg++:1.8
   mg/dL, PO4:2.2 mg/dL
   Imaging: CXR:
   Assessment and Plan
   64-year-old man with septic shock (source most likely decub, but UTI
   and PICC line also in DDx) on a background history of T4 paraplegia
   (?myelitis) complicated by decubiti, neurogenic bladder, PEs and UTIs.
   Septic Shock
   Source control
 pulled PICC line (neg to date, other clx also neg).
   Plastics does not think the decub is source of infection. . Flu and
   blood neg. Now back at baseline BP with appropriate adrenal reserve
   (still working on figuring out source).
   ABX
 vanco (MRSA), meropenem (GNR), cipro (GNR). Stopped metronidazole
   and ciproflox today (as no evidence of GNR in blood or need for double
   coverage). Empiric treatment for 10 days with Vanco and meropenem.
   Hemodynamics
 BP back at baseline
   Steroids
 assessed for adrenal insufficiency since on Megace.
   Appropriate stim.
   Decubitus ulcers vs osteo
   Quite long-standing, with recent debridement
   Plastics states no active infection, cont wound care rec's
   PE s/p IVC filter:
   Continue warfarin for now, with goal INR 2
 3.  Monitor closely, since
   may trend up with quinolone.  Now back on coumadin (holding dose)
   (elevated presently at 3.5)
   Renal function:
   Ok for now. Fluids with LR to avoid hyperchloremic acidosis.
   CAD/CHF
   No evidence of volume overload (but will need to be cautious with
   IVF).  Hold antihypertensive; continue aspirin.  [**Month (only) 60**] be able to retart
   in next couple of days (deferring for now)
   chest pain is muscoskeletal (pain with palpation and reassuring ECG)
   Seizure disorder. T4 plegia (very unclear etiology)
   Continue keppra
   Other issues per ICU resident note
   ICU Care
   Nutrition:
   Comments: PO diet
   Glycemic Control:  Comments: stopped sliding scale
   Lines:
   Presep Catheter - [**2106-5-13**] 06:48 PM
   18 Gauge - [**2106-5-13**] 06:49 PM
   Prophylaxis:
   DVT: (coumadin (INR currently 3.5))
   Stress ulcer: tolerating PO
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes